US07399759B2
2-(6-Methylthiomethyl-2-pyridyl)-4H-1,3-benzothiazine-4-one
[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methanesulfonate (0.55 g, 1.58 mmol) was dissolved in DMF (30 ml), and sodium thiomethoxide (0.13 g, 1.74 mmol) was added thereto. The mixture was stirred at 70° C. for 3 hrs. The reaction mixture was combined with ethyl acetate and water. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated. The residue was recrystallized from ethanol to give the titled compound (0.35 g, 75%) as pale yellow crystals.

reactant | [6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methanesulfonate | 1.58 mmol, 0.55 g | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)CS(=O)(=O)[O-]
reactant | sodium thiomethoxide | 1.74 mmol, 0.13 g | C[S-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 2-(6-Methylthiomethyl-2-pyridyl)-4H-1,3-benzothiazine-4-one | 0.35 g, 75% | CSCC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C15H12N2OS2
